US07132426B2
Step 1: Preparation of 5-Isopropoxymethyl-pyridine-2-carbonitrile.
In a microwave reaction tube was placed 2-chloro-5-isopropoxymethyl-pyridine (0.12 g, 0.66 mmol), Zn(CN)2 (0.077 g, 0.66 mmol), tetrakis(triphenylphosphino)dipalladium (76 mg, 0.066 mmol), DMF (2 mL). The reaction mixture was heated at 180° C. for 5 minutes. The resulted mixture was worked up by CH2Cl2/H2O. The CH2Cl2 layer was dried and concentrated to give the crude product. The crude was purified by column chromatography by using 30% EtOAc/Hexane. 1H NMR (CDCl3, 400 MHz) δ 1.26 (d, 6H), 3.73 (m, 1H), 4.59 (s, 2H), 7.68 (d, 1H), 7.85 (m, 1H), 8.67 (s, 1H). Exact mass calculated for C10H12N2O 176.09, found 177.2 (MH+).

reactant | 2-chloro-5-isopropoxymethyl-pyridine | 0.66 mmol, 0.12 g | ClC1=NC=C(C=C1)COC(C)C | C9H12ClNO
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 0.66 mmol, 0.077 g | [C-]#N.[C-]#N.[Zn+2]
solvent | CH2Cl2 H2O | C(Cl)Cl.O
product | 5-Isopropoxymethyl-pyridine-2-carbonitrile | C(C)(C)OCC=1C=CC(=NC1)C#N | C10H12N2O
